US09278983B2
To a mixture of methyl-(5-trifluoromethylsulfanylpyridine-2-yl)-amine (1.52 g) and chloroform (24 mL), N-bromosuccinimide (1.43 g) was added, and stirred at room temperature for 1 hour. Into the reaction mixture, water was poured, and extracted with chloroform. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 1.96 g of (3-bromo-5-trifluoromethylsulfanylpyridine-2-yl)-methylamine.

reactant | methyl-(5-trifluoromethylsulfanylpyridine-2-yl)-amine | 1.52 g | CNC1=NC=C(C=C1)SC(F)(F)F | C7H7F3N2S
reactant | chloroform | 24 mL | C(Cl)(Cl)Cl | CHCl3
reactant | N-bromosuccinimide | 1.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | O | H2O
product | (3-bromo-5-trifluoromethylsulfanylpyridine-2-yl)-methylamine | 1.96 g | BrC=1C(=NC=C(C1)SC(F)(F)F)NC | C7H6BrF3N2S
